US08791146B2
4-(4-Hydroxyphenyl)-2-methoxy-6-sulphanylpyridine-3,5-dicarbonitrile
1.3 g (4.550 mmol) of 2-chloro-4-(4-hydroxyphenyl)-6-methoxypyridine-3,5-dicarbonitrile are initially charged in 10 ml of DMF, 426 mg (5.460 mmol) of sodium sulphide are added and the mixture is stirred at room temperature overnight. The reaction mixture is reacted further without any further purification.

reactant | 2-chloro-4-(4-hydroxyphenyl)-6-methoxypyridine-3,5-dicarbonitrile | 4.550 mmol, 1.3 g | ClC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)O)C#N)OC | C14H8ClN3O2
reactant | sodium sulphide | 5.460 mmol, 426 mg | [S-2].[Na+].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(4-Hydroxyphenyl)-2-methoxy-6-sulphanylpyridine-3,5-dicarbonitrile | OC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)S)OC)C#N | C14H9N3O2S
